US08975400B2
7-((4-(3,5-difluorophenoxy)-3,5-difluorobenzyl)oxy)-1-methyl-2,3-dihydroimida-zo[1,2-c]pyrimidin-5(1H)-one
Prepared in a manner similar to that described for E1 using 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one (60 mg, 0.323 mmol), sodium hydride (25.9 mg, 0.647 mmol) and (4-(3,5-difluorophenoxy)-3,5-difluorophenyl)methanol (88 mg, 0.323 mmol) in DMF (2 mL)

reactant | 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | 0.323 mmol, 60 mg | ClC=1C=C2N(C(N1)=O)CCN2C | C7H8ClN3O
reactant | sodium hydride | 0.647 mmol, 25.9 mg | [H-].[Na+]
reactant | (4-(3,5-difluorophenoxy)-3,5-difluorophenyl)methanol | 0.323 mmol, 88 mg | FC=1C=C(OC2=C(C=C(C=C2F)CO)F)C=C(C1)F | C13H8F4O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 7-((4-(3,5-difluorophenoxy)-3,5-difluorobenzyl)oxy)-1-methyl-2,3-dihydroimida-zo[1,2-c]pyrimidin-5(1H)-one | FC=1C=C(OC2=C(C=C(COC=3C=C4N(C(N3)=O)CCN4C)C=C2F)F)C=C(C1)F | C20H15F4N3O3
